Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
Sulfa (Sulfonamide Antibiotics)
 
Attending: ___.
 
Chief Complaint:
onset of labor, spontaneous rupture of membranes
 
Major Surgical or Invasive Procedure:
Vaginal birth, D&E post birth
blood transfusion 2 units PRBC

 
History of Present Illness:
___ G8P2 at 37w3d presented with onset of labor. She had 
contractions and ruptured her membranes at 03:50 on the day of 
presentation.

PNC: 
- ___ ___ by LMP
- Screening, ERA normal
- nml fetal survey 
- Issues PUPPP, fainting spells, anemia
Hyperemesis, requiring PICC line, only d/c'd in ___.
 
Past Medical History:
OBHx:
- G8P2.  Last baby ~2900g.  States this baby feels slightly
larger.
Last pregnancy had vacuum for NRFS.  States episiotomy was
painful after healing.
 
GynHx:
- Menorrhagia 2x per month and intense cramps controlled by 
birth
control
 
PMH: 
hypertriglyceridemia
headache, classical migraine
asthma
hearing loss
Anemia
Fainting spells

PSH: Denies
 
Meds: PNV
Zofran, folic acid, omeprazole, B6, stool softener, prednisone
(for PUPP)
All: Imitrex, Relpax, grass, animal dander 
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
Physical Exam
VS at 05:00 ___
T:98, HR: 81, BP: 146/85 
Gen: A&O, comfortable
CV: regular rhythm
PULM: CTAB
Abd: soft, gravid, nontender

SVE at 04:45 on ___ Labor and Delivery Nursing
Assessment): 
cervix 3 cm/80%effaced/-1 station,   

Adequate pelvis
 
Pertinent Results:
___ 02:15PM   WBC-11.0* RBC-3.33*# HGB-6.6*# HCT-22.2*# 
MCV-67* MCH-19.8* MCHC-29.7* RDW-17.8* RDWSD-42.2
___ 02:15PM   PLT SMR-NORMAL PLT COUNT-185
___ 02:15PM   ___ TO  PTT-UNABLE TO  ___ 
TO 
___ 02:15PM   FIBRINOGE-UNABLE TO 
___ 05:03AM   WBC-7.8 RBC-4.56 HGB-9.1* HCT-30.8* MCV-68* 
MCH-20.0* MCHC-29.5* RDW-18.5* RDWSD-42.8
___ 05:03AM   PLT COUNT-256
 
Brief Hospital Course:
___ underwent an uncomplicated vaginal delivery w/ no 
perineal lacerations. Several hours after delivery she was noted 
to have persistent vaginal bleeding, EBL 1000 cc total 
postpartum. A transabodminal ultrasound was performed and 
revealed a large amount of clot within the uterus. Pt was given 
cytotec per rectum and pitocin, and taken back to the OR under 
anesthesia for D&C. Hemostasis was achieved and the patient 
returned to the L&D floor in stable condition. The patient 
received 2 units of pRBCs and her Hct increased from 22.2 -> 
25.3. She received routine postpartum care, which included close 
monitoring of her vital signs and any symptoms of anemia, and 
was discharged to home in stable condition.
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Ondansetron 8 mg PO Q8H:PRN nausea 
2. PredniSONE 10 mg PO DAILY 
3. Docusate Sodium 100 mg PO BID 
4. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
5. Omeprazole 20 mg PO DAILY 
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 

 
Discharge Medications:
1. Ibuprofen 600 mg PO Q6H:PRN Moderate Pain 
2. Docusate Sodium 100 mg PO BID 
3. Albuterol Inhaler 2 PUFF IH Q6H:PRN wheezing 
4. OxyCODONE (Immediate Release) ___ mg PO Q4H:PRN pain 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Term pregnancy, delivered
Spontaenous vaginal delivery, live born male
postpartum hemorrhage
anemia, s/p 2 units PRBC

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Refer to RN discharge packet
See warning signs below
Pelvic rest
start over the counter Floradix for anemia, can get at Whole 
Foods or ___
 
Followup Instructions:
___